US05047432
A solution of 1-[1-(4-chlorophenyl)cyclobutyl]-2-bromoethanone (3 g) in methanol (10 ml) was added to sodium methoxide prepared by the reaction of sodium (0.46 g) and methanol (20 ml) and the mixture was stirred for two hours, and then poured into water. The aqueous mixture was extracted with ether and the extract dried and evaporated to give 2-[1-(4-chlorophenyl)cyclobutyl]-2,2-dimethoxyethanol (m.p. 73°-74° C.).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-2-bromoethanone | 3 g | ClC1=CC=C(C=C1)C1(CCC1)C(CBr)=O | C12H12BrClO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.46 g | [Na] | Na
reactant | water | O | H2O
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 20 ml | CO | CH4O
product | 2-[1-(4-chlorophenyl)cyclobutyl]-2,2-dimethoxyethanol | ClC1=CC=C(C=C1)C1(CCC1)C(CO)(OC)OC | C14H19ClO3
